US05637727
Preparation of 1,1-diphenyl-1,2-epoxyethane
Sulphuric acid (23.7 g at 98%, 0.237 moles) was added dropwise, with stirring, to dimethylsulphide (20.0 g at 98%, 0.316 moles) over 60 minutes, maintaining the temperature below 26° C. Methanol (5.0 g, 0.156 mole) was added slowly to the stirred mixture maintaining the temperature below 31° C. The reaction mixture was stirred for 41/2 hours and head overnight unagitated at room temperature. Tertiary butanol (3.6 g, 0.048 mole) and benzophenone (27.4 g, 0.15 mole) were added to the reaction mixture. Potassium hydroxide flake (43.4 g, 0.73 mole) was added in 10 equal aliquots over 3 hours while maintaining the temperature below 40° C. The reaction was monitored by GC and then stirred overnight at room temperature.

reactant | Sulphuric acid | 0.237 moles, 23.7 g | S(O)(O)(=O)=O | H2O4S
reactant | dimethylsulphide | 0.316 moles, 20.0 g | CSC | C2H6S
reactant | Methanol | 0.156 mole, 5.0 g | CO | CH4O
reactant | Tertiary butanol | 0.048 mole, 3.6 g | C(C)(C)(C)O | C4H10O
reactant | benzophenone | 0.15 mole, 27.4 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | Potassium hydroxide | [OH-].[K+]
product | 1,1-diphenyl-1,2-epoxyethane | C1(=CC=CC=C1)C1(CO1)C1=CC=CC=C1 | C14H12O
